US08420810B2
Ethyl 5-methyl-1H-pyrrole-3-carboxylate
10% palladium carbon (anhydrous) (2.5 g) was suspended with ethanol (500 mL) under argon gas atmosphere. Ethyl 2-chloro-5-methyl-1H-pyrrole-3-carboxylate (50 g; see, Tetrahedron Letters, Vol. 35, No. 33, 5989-5992 (1994)) and ammonium formate (51 g) were added to the reaction mixture at room temperature, and it was stirred at room temperature for 8 hours. The reaction mixture was subjected to filtration with Celite (trade name), the filtrate was concentrated under reduced pressure. Water and ethyl acetate were added to the obtained residue, and the mixture was extracted with ethyl acetate. The organic layer was washed by water and a saturated aqueous solution of sodium chloride, and concentrated under reduced pressure after drying with anhydrous magnesium sulfate, to thereby obtain a title compound (40 g) having the following physical properties.

reactant | Ethyl 2-chloro-5-methyl-1H-pyrrole-3-carboxylate | ClC=1NC(=CC1C(=O)OCC)C | C8H10ClNO2
reactant | ammonium formate | 51 g | C(=O)[O-].[NH4+]
catalyst | palladium carbon | 2.5 g | [C].[Pd]
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | Ethyl 5-methyl-1H-pyrrole-3-carboxylate | 40 g | CC1=CC(=CN1)C(=O)OCC | C8H11NO2
